US07977344B2
6-Amino-2-(butylamino)-9-[(2,2-dimethyltetrahydro-2H-pyran-4-yl)methyl]-7,9-dihydro-8H-purin-8-one
A solution of N2-butyl-9-[(2,2-dimethyltetrahydro-2H-pyran-4-yl)methyl]-8-methoxy-9H-purine-2,6-diamine (73 mg) in MeOH (2 mL) was treated with 4N HCl in 1,4-dioxane (1 mL) and was stirred for 4 h. The reaction was evaporated and the residue treated with water then basified with saturated sodium bicarbonate solution. The resulting solid was filtered, washed with water and dried. The solid was re-precipitated from ether/light petrol to give the title compound (37 mg).

reactant | N2-butyl-9-[(2,2-dimethyltetrahydro-2H-pyran-4-yl)methyl]-8-methoxy-9H-purine-2,6-diamine | 73 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CC1CC(OCC1)(C)C)OC)N | C18H30N6O2
reactant | HCl | 4N | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 6-Amino-2-(butylamino)-9-[(2,2-dimethyltetrahydro-2H-pyran-4-yl)methyl]-7,9-dihydro-8H-purin-8-one | 37 mg | NC1=C2NC(N(C2=NC(=N1)NCCCC)CC1CC(OCC1)(C)C)=O | C17H28N6O2
